US04670421
tert-Butyl ethyl 4-[14-(trimethylsilyl)tetradecylamino]benzoylmalonate
A solution of 14 g. of tert-butyl ethyl malonate in 5 ml. of 1,2-dimethoxyethane is added to a suspension of 2.0 g. of sodium hydride in 1,2-dimethoxyethane under argon. A solution of 8.4 g. of 4-[14-(trimethylsilyl)tetradecylamino]benzoyl chloride hydrochloride in 1,2-dimethoxyethane is then added. The reaction mixture is refluxed for 5 hours, cooled, poured on ice and extracted with ether. The ether solution is washed with water and saturated sodium chloride solution, dried with anhydrous sodium sulfate and evaporated to dryness. The residue is then recrystallized to yield the title compound.

reactant | tert-butyl ethyl malonate | C(CC(=O)OCC)(=O)OC(C)(C)C | C9H16O4
reactant | sodium hydride | [H-].[Na+]
reactant | 4-[14-(trimethylsilyl)tetradecylamino]benzoyl chloride hydrochloride | Cl.C[Si](CCCCCCCCCCCCCCNC1=CC=C(C(=O)Cl)C=C1)(C)C
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | tert-Butyl ethyl 4-[14-(trimethylsilyl)tetradecylamino]benzoylmalonate | C[Si](CCCCCCCCCCCCCCNC1=CC=C(C(=O)C(C(=O)OC(C)(C)C)C(=O)OCC)C=C1)(C)C | C33H57NO5Si
